US07112697B1
n-Butyl 4-Methoxyphenyl Sulfide (entry 4, Table 3):
The general procedure was used to convert 4-methoxy iodobenzene and n-butyl sulfide to the title product. Purification by flash chromatography (hexane as the eluent) gave the analytically pure product as a clear oil (370 mg, 95% yield). 1H NMR (300 MHz, CDCl3) δ 7.26–7.23 (d, J=9.0. 2H; Hb, Hb′), 6.76–6.73 (d, J=8.8, 2H; Hc, Hc′), 3.69 (s, 3H; Hg), 2.75–2.70 (t, 2H; Hd), 1.50–1.43 (m, 2H; He), 1.36–1.28 (m, 2H; Hf), 0.83–0.78 (t, 3H; methyl protons). 13C NMR (75 MHz, CDCl3) δ 158.62 (C4), 132.81 (C1), 126.85 (C2, C2), 114.39 (C3, C3), 55.21 (C9), 35.04 (C5), 31.63 (C6), 21.75 (C7), 13.59 (C8). Anal. Calcd. for C11H16SO: C, 67.30; H, 8.22; S, 16.33; Found C, 66.87; H, 8.28; S, 16.21.

reactant | 4-methoxy iodobenzene | COC1=CC=C(C=C1)I | C7H7IO
reactant | n-butyl sulfide | C(CCC)SCCCC | C8H18S
product | n-Butyl 4-Methoxyphenyl Sulfide | COC1=CC=C(C=C1)SCCCC | C11H16OS
